US04886814
N-[2-(4-Methoxyphenyl)-1-methylethyl]-2-(2-trifluoromethylthiazol-4-yl)morpholine
Prepared by analogy to Example 13 by reaction of 2-(2-trifluoromethyl-thiazol-4-yl)morpholine with 4-methoxyphenyl-propan-2-one followed by purification of the base on a silica gel column using chloroform/ethyl acetate=9:1 as eluant.

reactant | 2-(2-trifluoromethyl-thiazol-4-yl)morpholine | FC(C=1SC=C(N1)C1CNCCO1)(F)F | C8H9F3N2OS
reactant | 4-methoxyphenyl-propan-2-one | COC1=CC=C(C=C1)CC(C)=O | C10H12O2
product | N-[2-(4-Methoxyphenyl)-1-methylethyl]-2-(2-trifluoromethylthiazol-4-yl)morpholine | COC1=CC=C(C=C1)CC(C)N1CC(OCC1)C=1N=C(SC1)C(F)(F)F | C18H21F3N2O2S
